US07858653B2
To a stirred suspension of 2-(2,3-difluoro-phenoxymethyl)-1-trityl-1H-imidazole (230 mg) at room temperature in ethanol (2 ml) under an argon atmosphere was added 2 N HCl (3 ml). The mixture was heated to reflux and stirring was continued for 5 hours. The reaction mixture was cooled to room temperature and concentrated to leave an off-white solid. This was taken up in sat. aq. Na2CO3 and extracted with CH2Cl2/methanol 9:1. The combined organics were dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient:CH2Cl2→CH2Cl2/methanol 9:1) to give 2-(2,3-difluoro-phenoxymethyl)-1H-imidazole (108 mg) as an off-white solid. MS 210.9 ([M+H]+)

reactant | 2-(2,3-difluoro-phenoxymethyl)-1-trityl-1H-imidazole | 230 mg | FC1=C(OCC=2N(C=CN2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1F | C29H22F2N2O
reactant | HCl | 2 N, 3 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(2,3-difluoro-phenoxymethyl)-1H-imidazole | 108 mg | FC1=C(OCC=2NC=CN2)C=CC=C1F | C10H8F2N2O
